US08975415B2
A mixture of di-tert-butyl (6′-bromodispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl)imidodicarbonate (300 mg, 0.571 mmol), 3-methoxypyridin-2-amine (354 mg, 2.86 mmol), tris(dibenzylideneacetone)dipalladium(0) (105 mg, 0.114 mmol), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (198 mg, 0.343 mmol), Cs2CO3 (558 mg, 1.71 mmol) and dioxane (15 mL) was stirred for 48 hours at 100° C. The reaction mixture was cooled down to ambient temperature, and partitioned with CHCl3 and water. The organic layer was dried over Na2SO4, and filtered. The filtrate was concentrated at reduced pressure, to give crude di-tert-butyl {6′-[(3-methoxypyridin-2-yl)amino]dispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl}imidodicarbonate, which was used for the next reaction without further purification.

reactant | di-tert-butyl (6′-bromodispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl)imidodicarbonate | 0.571 mmol, 300 mg | BrC=1C=C2C3(N=C(OC3)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C3(COC3)COC2=CC1 | C23H29BrN2O7
reactant | 3-methoxypyridin-2-amine | 2.86 mmol, 354 mg | COC=1C(=NC=CC1)N | C6H8N2O
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.343 mmol, 198 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | Cs2CO3 | 1.71 mmol, 558 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.114 mmol, 105 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | di-tert-butyl {6′-[(3-methoxypyridin-2-yl)amino]dispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl}imidodicarbonate | COC=1C(=NC=CC1)NC=1C=C2C3(N=C(OC3)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C3(COC3)COC2=CC1 | C29H36N4O8
